US05550147
Acetyl chloride (0.31 g) was added dropwise to an ice-cooled solution of 1-(4-hydroxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (1 g) in pyridine (10 ml). The mixture was stirred at 5° C. for 3 hours, poured into water, and acidified with hydrochloric acid. The precipitates were filtered and purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1) to give a yellow powder of 1-(4-acetoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (0.9 g).

reactant | Acetyl chloride | 0.31 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-(4-hydroxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 1 g | OC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C17H13F3N2O3S
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-acetoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 0.9 g | C(C)(=O)OC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C19H15F3N2O4S
